US08193207B2
3-{5-Chloro-6-[2-(cis-4-hydroxycyclohexyl)-1-oxo-2,8-diazaspiro[4.5]dec-8-yl]pyridin-3-yl}-N-methylbenzamide
Potassium phosphate (0.017 g, 0.078 mmol) in water (0.10 mL) was added to a mixture of 8-(5-bromo-3-chloropyridin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one (11.6 mg, 0.0262 mmol), 3-[(methylamino)carbonyl]phenylboronic acid (7.0 mg, 0.039 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.9 mg, 0.0008 mmol) in 1,4-dioxane (0.78 mL). The resulting mixture was heated and stirred at 120° C. for 2 h. The mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried over Na2SO4, filtered, concentrated under reduced pressure. The residue was purified by Prep-HPLC to afford the desired product. LCMS: (M+H)+=497.1/499.1.

reactant | Potassium phosphate | 0.078 mmol, 0.017 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 8-(5-bromo-3-chloropyridin-2-yl)-2-(cis-4-hydroxycyclohexyl)-2,8-diazaspiro[4.5]decan-1-one | 0.0262 mmol, 11.6 mg | BrC=1C=C(C(=NC1)N1CCC2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CC1)Cl | C19H25BrClN3O2
reactant | 3-[(methylamino)carbonyl]phenylboronic acid | 0.039 mmol, 7.0 mg | CNC(=O)C=1C=C(C=CC1)B(O)O | C8H10BNO3
solvent | water | 0.10 mL | O | H2O
solvent | 1,4-dioxane | 0.78 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0008 mmol, 0.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-{5-Chloro-6-[2-(cis-4-hydroxycyclohexyl)-1-oxo-2,8-diazaspiro[4.5]dec-8-yl]pyridin-3-yl}-N-methylbenzamide | ClC=1C=C(C=NC1N1CCC2(CCN(C2=O)[C@@H]2CC[C@@H](CC2)O)CC1)C=1C=C(C(=O)NC)C=CC1 | C27H33ClN4O3
